US08222248B2
To a solution of 4-bromo-3-methyl-benzoic acid (300 mg) in 1,4-dioxane (5 mL) were added triethylamine (0.245 mL) and diphenylphosphory azide (0.316 mL). The mixture was stirred at room temperature for 16 h and then after adding EtOH (0.8 mL), the mixture was heated at 80° C. for 7 h. The reaction mixture was diluted with saturated NaHCO3 aqueous solution. The aqueous layer was extracted with EtOAc, and the organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=5:95 to 40:60) to give (4-bromo-3-methyl-phenyl)-carbamic acid ethyl ester as colorless oil: MS (m/z) 258 (M−1); 1H NMR (CDCl3, 400 MHz) δ 7.42 (d, 1H), 7.30 (s, 1H), 7.08 (dd, 1H), 6.53 (s, 1H), 4.22 (q, 2H), 2.36 (s, 3H), 1.30 (t, 3H).

reactant | 4-bromo-3-methyl-benzoic acid | 300 mg | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | triethylamine | 0.245 mL | C(C)N(CC)CC | C6H15N
reactant | azide | 0.316 mL | [N-]=[N+]=[N-]
reactant | EtOH | 0.8 mL | CCO | C2H6O
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (4-bromo-3-methyl-phenyl)-carbamic acid ethyl ester | C(C)OC(NC1=CC(=C(C=C1)Br)C)=O | C10H12BrNO2
